US06251938B1
3-(N-Me,N-nPr Carbamyloxy) N-methyl phenethylamine HCl (Compound 6)
A solution of propargyl bromide (1.1 g, 9.1 mmol) in acetonitrile (8.5 ml) was added dropwise to a stirred mixture of 3-(N-Me, N-Et carbamyloxy)α-methyl phenethylamine.HCl (2.4 g, 8.8 mmol) and potassium carbonate (2.8 g) in acetonitrile (25 ml), and the mixture was stirred at RT for 7 hrs. The reaction mixture was filtered and the filtrate was removed under reduced pressure and the residue was purified by column chromatography (hexane:EtOAc 2:1) to give 1.76 g of the title compound as the free base (73%)

reactant | propargyl bromide | 9.1 mmol, 1.1 g | C(C#C)Br | C3H3Br
reactant | α-methyl phenethylamine | CC(CC1=CC=CC=C1)N | C9H13N
reactant | HCl | 8.8 mmol, 2.4 g | Cl | ClH
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 8.5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | N-methyl phenethylamine HCl | 1.76 g | Cl.CNCCC1=CC=CC=C1 | InChI=1S/C9H13N.ClH/c1-10-8-7-9-5-3-2-4-6-9;/h2-6,10H,7-8H2,1H3;1H
